US07737166B2
4-Cyano-7-(4-methoxybenzylamino)-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-337)
4-Cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (1.0 g, 3-09 mmol) was dissolved in dimethyl sulfoxide (60 ml), then at room temperature, triethylamine (560 μl, 4.02 mmol) was added, followed by heating at 150° C. 4-Methoxybenzylamine (525 μl, 4.02 mmol) was added to the solution all at a time, followed by stirring for 1.5 hours. The reaction liquid was cooled to room temperature, and the solvent was evaporated away under reduced pressure. The residue was fractionated with chloroform and saturated brine, and the organic layer was dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, chloroform:acetone=98:2, v/v) to obtain the entitled compound (665 mg, 49%) as a yellow solid.

reactant | 4-Cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 1.0 g | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
reactant | triethylamine | 4.02 mmol, 560 μl | C(C)N(CC)CC | C6H15N
reactant | 4-Methoxybenzylamine | 4.02 mmol, 525 μl | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 4-Cyano-7-(4-methoxybenzylamino)-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 665 mg, 49% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)NCC2=CC=C(C=C2)OC)C2=CC=CC=C2)C | C26H24N4O3
